US06685995B1
Trifluoroacetylbenzotriazole in an amount of 7.5 g (35 mmol) was dissolved in 75 ml of THF, 4.6 g (19 mmol) of 4-(4-butyl-cyclohexyl)cyclohexanol was added thereto, they were refluxed for 1 hour, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=5/1), the solvent was distilled off, the residue was subjected twice to recrystallization by using heptane to give 1.5 g (4.5 mmol) of trifluoroacetic acid 4-(4-butylcyclohexyl)cyclohexyl ester. Yield of this compound based on 4-(4-butylcyclohexyl)cyclohexanol was 24%.

reactant | Trifluoroacetylbenzotriazole | FC(C(=O)C1=CC=CC=2NN=NC21)(F)F | C8H4F3N3O
reactant | 4-(4-butyl-cyclohexyl)cyclohexanol | 19 mmol, 4.6 g | C(CCC)C1CCC(CC1)C1CCC(CC1)O | C16H30O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | trifluoroacetic acid 4-(4-butylcyclohexyl)cyclohexyl ester | 4.5 mmol, 1.5 g | C(CCC)C1CCC(CC1)C1CCC(CC1)OC(C(F)(F)F)=O | C18H29F3O2
